US04812164
using 2-chloro-1-(4-chloro-2-fluoro-5-isopropoxyphenyl)-4-trifluoromethyl-6(1H)-pyrimidinone and sodium propylate in n-propanol there is obtained 1-(4-chloro-2-fluoro-5-isopropoxyphenyl)-2-propoxy-4-trifluoromethyl-6(1H)-pyrimidinone, 1H-NMR (CDCl3, 400 MHz): 7.31 ppm (d,1H), 6.80 ppm (d,1H), 6.59 ppm (s,1H), 4.31-4.51 ppm (m,3H), 1.67 ppm (m,2H), 1.38 ppm (d,3H), 1.37 ppm (d,3H), 0.85 ppm (t,3H);

reactant | 2-chloro-1-(4-chloro-2-fluoro-5-isopropoxyphenyl)-4-trifluoromethyl-6(1H)-pyrimidinone | ClC=1N(C(C=C(N1)C(F)(F)F)=O)C1=C(C=C(C(=C1)OC(C)C)Cl)F | C14H10Cl2F4N2O2
reactant | sodium | [Na] | Na
solvent | n-propanol | C(CC)O | C3H8O
product | 1-(4-chloro-2-fluoro-5-isopropoxyphenyl)-2-propoxy-4-trifluoromethyl-6(1H)-pyrimidinone | ClC1=CC(=C(C=C1OC(C)C)N1C(=NC(=CC1=O)C(F)(F)F)OCCC)F | C17H17ClF4N2O3
